US09255097B2
Preparation 15D: [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester
A solution of [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-5-chloro-4-(4-cyano-3-fluoro-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester (2.2 g, 4.2 mmol), p-methoxyboronic acid (1.9 g, 12.7 mmol), Pd-118 (274 mg, 0.42 mmol) and K2CO3 (1.2 g, 8.4 mmol) in DMF (50 mL) was stirred at 145° C. for 6 h under nitrogen atmosphere. The reaction mixture was diluted with water and extracted with EA (3×). The combined organics were washed with water, washed brine, dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC to give 600 mg of the title product (24%). [M+H] Calc'd for C31H34FN5O6, 592. Found, 592.

reactant | [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-5-chloro-4-(4-cyano-3-fluoro-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester | 4.2 mmol, 2.2 g | COC(CN1C(=NC(=C(C1=O)Cl)C1=CC(=C(C=C1)C#N)F)N1CCC(CC1)NC(=O)OC(C)(C)C)=O | C24H27ClFN5O5
reactant | K2CO3 | 8.4 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [2-(4-tert-butoxycarbonylamino-piperidin-1-yl)-4-(4-cyano-3-fluoro-phenyl)-5-(4-methoxy-phenyl)-6-oxo-6H-pyrimidin-1-yl]-acetic acid methyl ester | 600 mg, 24% | COC(CN1C(=NC(=C(C1=O)C1=CC=C(C=C1)OC)C1=CC(=C(C=C1)C#N)F)N1CCC(CC1)NC(=O)OC(C)(C)C)=O | C31H34FN5O6
